* Subcircuit debounce_controller_subcircuit
.subckt debounce_controller_subcircuit net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ 
* c:\fossee\esim\library\subcircuitlibrary\debounce_controller_subcircuit\debounce_controller_subcircuit.cir
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ debounce_controller_verilog
* u3  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ adc_bridge_5
* u4  net-_u1-pad6_ net-_u2-pad6_ dac_bridge_1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ net-_u1-pad5_ ] [net-_u1-pad6_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] u3
a3 [net-_u1-pad6_ ] [net-_u2-pad6_ ] u4
* Schematic Name:                             debounce_controller_verilog, NgSpice Name: debounce_controller_verilog
.model u1 debounce_controller_verilog(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 )
* Control Statements

.ends debounce_controller_subcircuit